US07776847B2
To a solution of 3-mercaptopicolinonitrile (1.05 g, 7.72 mmol) in ethyl acetate (30 mL), bromine (3.00 g, 18.90 mmol) was added dropwise at 0° C. The reaction mixture was allowed to warm to room temperature and then refluxed for 3 h. The reaction mixture was concentrated under reduced pressure. Trituration with hexanes:methylene chloride (1:1 mixture) gave 3-bromoisothiazolo[4,5-b]pyridine, as light brown solid which was carried forward without further purification. MW=215 confirmed by LC-MS, tr=15.89 min (Method Y) MH+=216.

reactant | 3-mercaptopicolinonitrile | 7.72 mmol, 1.05 g | SC=1C(=NC=CC1)C#N | C6H4N2S
reactant | bromine | 18.90 mmol, 3.00 g | BrBr | Br2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-bromoisothiazolo[4,5-b]pyridine | BrC1=NSC=2C1=NC=CC2 | C6H3BrN2S
